US05118816
Preparation of 2-phenyl-N-(trifluoroacetyl)glycine
A mixture of DL-phenylglycine (15.1 g, 0.10 mol) in methanol is treated with triethylamine (10.1 g, 0.10 mol) and ethyl trifluoroacetate (17.8 g, 0.125 mol), stirred at room temperature for 72 hours, diluted with methanol and treated with Dowex 50× acidic resin. The reaction mixture is stirred for 10 minutes and filtered. The filtrate is concentrated in vacuo to give a pale yellow solid which is recrystallized from 1,2-dichloroethane to give the title product as white needles, 10.5 g (42% yield), mp 155-157° C.

reactant | DL-phenylglycine | 0.10 mol, 15.1 g | C1=CC=C(C=C1)C(C(=O)O)N | C8H9NO2
reactant | triethylamine | 0.10 mol, 10.1 g | C(C)N(CC)CC | C6H15N
reactant | ethyl trifluoroacetate | 0.125 mol, 17.8 g | FC(C(=O)OCC)(F)F | C4H5F3O2
solvent | methanol | CO | CH4O
product | 2-phenyl-N-(trifluoroacetyl)glycine | 42% yield | C1(=CC=CC=C1)C(NC(C(F)(F)F)=O)C(=O)O | C10H8F3NO3
